US05981558
Synthesis of 4-Bromomethyl-5-formyloxymethyl-2-oxo-1,3-dioxolene (Compound S-30)
4,5-Dibromomethyl-2-oxo-1,3-dioxolene (150 mg, 0.55 mmol) was dissolved in acetonitrile (4.0 mL). Potassium formate (46 mg, 0.55 mmol) was added thereto. This mixture was stirred at 25° C. for 5 hours. Through the ordinary post-treatment, crude Compound S-30 (85 mg, yield 65%) was obtained.

reactant | 4,5-Dibromomethyl-2-oxo-1,3-dioxolene | 0.55 mmol, 150 mg | BrCC=1OC(OC1CBr)=O | C5H4Br2O3
reactant | Potassium formate | 0.55 mmol, 46 mg | C(=O)[O-].[K+]
solvent | acetonitrile | 4.0 mL | C(C)#N | C2H3N
product | 4-Bromomethyl-5-formyloxymethyl-2-oxo-1,3-dioxolene | yield 65% | BrCC=1OC(OC1COC=O)=O | C6H5BrO5
